US08202873B2
2-[4-(2-Bromoethyl)-3,5-diethylpyrazol-1-yl]-pyridine
Combine 2-(3,5-diethyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-ethanol (0.68 g, 2.78 mmol) and triphenylphosphine (1.09 g, 4.18 mmol) in DCM (20 mL) and cool to 0° C. Add a solution of carbon tetrabromide (1.39 g, 4.18 mmol) and triethylamine (0.77 mL, 5.56 mmol) in DCM (5 mL) dropwise. Warm the reaction mixture to room temperature and stir for 3 hr. Dilute with diethyl ether (20 mL) and filter. Concentrate filtrate and purify using silica gel chromatography, eluting with 90:10 hexanes:ethyl acetate, to give the title preparation as an oil (0.8 g, 93%): 1H-NMR (400 MHz, CDCl3) δ 8.39 (m, 1H), 7.80 (m, 1H), 7.75 (m, 1H), 7.15 (m, 1H), 3.39 (m, 2H), 3.08 (q, 2H), 2.98 (m, 2H), 2.64 (q, 2H), 1.28 (t, 3H), 1.15 (t, 3H).

reactant | 2-(3,5-diethyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-ethanol | 2.78 mmol, 0.68 g | C(C)C1=NN(C(=C1CCO)CC)C1=NC=CC=C1 | C14H19N3O
reactant | triphenylphosphine | 4.18 mmol, 1.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 4.18 mmol, 1.39 g | C(Br)(Br)(Br)Br | CBr4
reactant | triethylamine | 5.56 mmol, 0.77 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 2-[4-(2-Bromoethyl)-3,5-diethylpyrazol-1-yl]-pyridine | BrCCC=1C(=NN(C1CC)C1=NC=CC=C1)CC | C14H18BrN3
